US04897490
5,5-Bis(4-fluorophenyl)-4-(2-ethyl-2H-tetrazol-5-yl)-2,4-pentadienal
The procedure of Example 50 was repeated using 3.25 g (9.5 mmoles) of 3,3-bis(4-fluorophenyl)-2-(2-ethyl-2H-tetrazol-5-yl)-2-propenal and 3.05 g (10.0 mmoles) of triphenylphosphoranylidene acetaldehyde and there was thereby produced 3.3 g (95%) of the title compound; m.p.=117°-120° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(2-ethyl-2H-tetrazol-5-yl)-2-propenal | 9.5 mmoles, 3.25 g | FC1=CC=C(C=C1)C(=C(C=O)C=1N=NN(N1)CC)C1=CC=C(C=C1)F | C18H14F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 10.0 mmoles, 3.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
product | 5,5-Bis(4-fluorophenyl)-4-(2-ethyl-2H-tetrazol-5-yl)-2,4-pentadienal | 3.3 g, 95% | FC1=CC=C(C=C1)C(=C(C=CC=O)C=1N=NN(N1)CC)C1=CC=C(C=C1)F | C20H16F2N4O
